US09399646B2
Step 1: 1-(2,2-Dimethoxyethoxy)-3-iodobenzene
3-Iodophenol (5.35 g, 24.3 mmol) was added to a suspension of NaH (1.46 g, 36.5 mmol, 60% in mineral oil) in anhydrous DMF (30 mL) at 0° C. After hydrogen evolution had ceased, 15-crown-5 (0.535 g, 2.43 mmol) and 2-bromo-1,1-dimethoxyethane (7.1 g, 42 mmol) were added. The resulting mixture was heated at 130° C. for 3 h, cooled to room temperature, poured into water (200 mL), and extracted with Et2O (3×150 mL). The combined organic layers were washed with water (100 mL) and brine (100 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified on a silica gel column using EtOAc in petroleum ether (1:50) to afford the title compound (6.36 g, 85%). 1H NMR (DMSO-d6, 400 MHz): δ 7.32 (s, 1H), 7.30-7.26 (m, 1H), 7.07 (t, 1H), 7.00-6.94 (m, 1H), 4.66 (t, 2H), 3.98 (d, 1H), 3.33 (s, 6H).

reactant | 3-Iodophenol | 24.3 mmol, 5.35 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | NaH | 36.5 mmol, 1.46 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 15-crown-5 | 2.43 mmol, 0.535 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 2-bromo-1,1-dimethoxyethane | 42 mmol, 7.1 g | BrCC(OC)OC | C4H9BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 1-(2,2-Dimethoxyethoxy)-3-iodobenzene | 6.36 g, 85% | COC(COC1=CC(=CC=C1)I)OC | C10H13IO3
